US08193199B2
To a stirred solution of (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione (1 g, 2.7 mmol) in dioxane (25 mL) under a nitrogen atmosphere was added vinyl tributyltin (1.28 mL, 4.04 mmol) and tetrakis(triphenylphosphine)palladium (156 mg, 0.13 mmol). The reaction was heated at 100° C. for 3 hours and then the solvent was evaporated in vacuo. The resulting black residue was purified by column chromatography (40 g SiO2, Hexanes:Ethyl acetate, 1:0 to 3:1) to give (S)-2-(1-(8-chloro-2-vinylquinolin-3-yl)ethyl)isoindoline-1,3-dione as a white solid. 1H-NMR (400 MHz, CDCl3) δ ppm 8.53 (1H, s), 7.76-7.81 (4H, m), 7.68-7.72 (2H, m), 7.41 (1H, dd, J=7.8, 7.8 Hz), 7.26-7.33 (1H, m), 6.71 (1H, dd, J=16.4, 2.3 Hz), 6.00 (1H, q, J=7.3 Hz), 5.64 (1H, dd, J=10.6, 2.3 Hz), 2.00 (3H, d, J=7.0 Hz). Mass Spectrum (ESI) m/e=362.8 (M+1).

reactant | (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 2.7 mmol, 1 g | ClC1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)Cl | C19H12Cl2N2O2
reactant | vinyl tributyltin | 4.04 mmol, 1.28 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.13 mmol, 156 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-(1-(8-chloro-2-vinylquinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC=1C=CC=C2C=C(C(=NC12)C=C)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C21H15ClN2O2
